US07410971B2
1-{4-[2-(3,3,5,5-Tetramethylcyclohexyl)phenyl]piperazin-1-yl}butan-2-ol hydrochloride
To a mixture of 1-{4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazin-1-yl}butan-2-one (298 mg, 0.802 mmol) produced as an intermediate in Example 25 and methanol (3 mL) was gradually added sodium borohydride (36.4 mg, 0.962 mmol) at an external temperature of room temperature, followed by stirring for 1 hour under the same conditions. Aqueous solution of ammonium chloride was added to the reaction mixture and the mixture was stirred overnight and the mixture was made basic with aqueous solution of potassium carbonate, and extraction was performed with ethyl acetate. The separated organic layer was concentrated under reduced pressure to give a residue, which was purified by NH silica gel column chromatography (ethyl acetate/heptane) to give 269 mg of the free form of the title compound as a colorless solid. The free form of the title compound (20 mg, 0.054 mmol) was dissolved in a mixed solvent of ethanol and ethyl acetate, and then a 4N solution of hydrogen chloride in ethyl acetate (0.015 mL, 0.059 mmol) was added. The mixed solution was concentrated under reduced pressure and the resulting solid residue was washed with a mixed solvent of diethyl ether and heptane and then dried under reduced pressure to give 20 mg of the title compound as a colorless solid.

reactant | 1-{4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazin-1-yl}butan-2-one | 0.802 mmol, 298 mg | CC1(CC(CC(C1)(C)C)C1=C(C=CC=C1)N1CCN(CC1)CC(CC)=O)C | C24H38N2O
reactant | sodium borohydride | 0.962 mmol, 36.4 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 3 mL | CO | CH4O
product | 1-{4-[2-(3,3,5,5-Tetramethylcyclohexyl)phenyl]piperazin-1-yl}butan-2-ol hydrochloride | Cl.CC1(CC(CC(C1)(C)C)C1=C(C=CC=C1)N1CCN(CC1)CC(CC)O)C | InChI=1S/C24H40N2O.ClH/c1-6-20(27)17-25-11-13-26(14-12-25)22-10-8-7-9-21(22)19-15-23(2,3)18-24(4,5)16-19;/h7-10,19-20,27H,6,11-18H2,1-5H3;1H
